US04912135
Preparation of 3,5-bis(methoxyacetylamino)benzonitrile:
To a solution of 3,5-diaminobenzonitrile monohydrochloride (5.1 g) in pyridine (100 ml) is added dropwise methoxyacetyl chloride (6.0 ml) at room temperature. The mixture is stirred at room temperature for 2 hours, and thereafter, pyridine is distilled off under reduced pressure. To the residue is added water and the mixture is extracted with ethyl acetate. The organic layer is washed with water and then with aqueous saturated sodium chloride solution and dried over anhydrous sodium sulfate. After distilling off the solvent, the resulting solid substance is recrystallized from ethyl acetate-n-hexane to give the title compound (3.2 g) having the following physical properties.

reactant | 3,5-diaminobenzonitrile monohydrochloride | 5.1 g | Cl.NC=1C=C(C#N)C=C(C1)N
reactant | methoxyacetyl chloride | 6.0 ml | COCC(=O)Cl | C3H5ClO2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-bis(methoxyacetylamino)benzonitrile | 3.2 g | COCC(=O)NC=1C=C(C#N)C=C(C1)NC(COC)=O | C13H15N3O4
